US06498251B1
Synthesis Example 5b 1,2,3,4,4a,5-Hexahydropyrazino[2,1-c]-1,4-benzthiazine Hydrochloride
A 1 ml portion of 5 N hydrochloric acid was added to acetic acid solution (10 ml) containing 0.52 g (1.70 mmol) of 3-t-butoxycarbonyl-1,2,3,4,4a,5-hexahydropyrazino[2,1-c]-1,4-benzthiazine, and the mixture was stirred overnight at room temperature and then at 60° C. for 2 hours. The solvent was removed by evaporation under a reduced pressure and the resulting residue was recrystallized from ethanol to obtain 0.36 g (88% in yield) of the title compound.

reactant | hydrochloric acid | 5 N | Cl | ClH
reactant | 3-t-butoxycarbonyl-1,2,3,4,4a,5-hexahydropyrazino[2,1-c]-1,4-benzthiazine | 1.70 mmol, 0.52 g | C(C)(C)(C)OC(=O)N1CC2CSC3=C(N2CC1)C=CC=C3 | C16H22N2O2S
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 1,2,3,4,4a,5-Hexahydropyrazino[2,1-c]-1,4-benzthiazine Hydrochloride | Cl.C1CNCC2CSC3=C(N21)C=CC=C3 | InChI=1S/C11H14N2S.ClH/c1-2-4-11-10(3-1)13-6-5-12-7-9(13)8-14-11;/h1-4,9,12H,5-8H2;1H
